### PR TITLE
[Merged by Bors] - feat(NumberTheory/Padics): parametrization of cts add chars of Z_[p]

### PR DESCRIPTION
**Pull request by loefflerd**
Another step towards defining the Mahler / Amice transform for p-adic measures.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+  induction n generalizing x with
+  | zero => simp
+  | succ n IH =>
+    simp only [pow_succ, Function.iterate_succ_apply', fwdDiff, IH, ← mul_sub, mul_assoc]
+    rw [sub_mul, ← AddChar.map_add_eq_mul, add_comm h x, one_mul]
+
+variable {p : ℕ} [Fact p.Prime]
+
+/-- If two continuous additive characters of `ℤ_[p]` agree at 1, they agree everwhere. -/
+lemma AddChar.eq_of_apply_one_eq {M : Type*} [Monoid M] [TopologicalSpace M] [T2Space M]
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/AddChar.lean:34]: Actually the very same proof in a slightly more general setting, like
```
lemma AddChar.eq_of_apply_one_eq {M X : Type*} [Monoid M] [TopologicalSpace M] [T2Space M]
    [TopologicalSpace X] [AddMonoidWithOne X] (hdr : (DenseRange (Nat.cast : ℕ → X)))
    {κ₁ κ₂ : AddChar X M} (hκ₁ : Continuous κ₁) (hκ₂ : Continuous κ₂) (h : κ₁ 1 = κ₂ 1) :
    κ₁ = κ₂ := by
```
The advantage is that you can apply this to stuff that is isomorphic to Z_p without being Z_p itself, like the completion the integers of a number field where p splits completely, or to the ring `Z_p p` that we define in our project with María Inés. The drawback is that `hdr` is explicit, and so it would probably be worth it to also add a dedicated version for `Z_[p]`. I have mixed feelings about this suggestion, so do whatever you want... :smile: .

On the other hand, should it be `apply` or `eval` in the name?

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 2]
```diff
@@ -0,0 +1,107 @@
...
+    {κ₁ κ₂ : AddChar ℤ_[p] M} (hκ₁ : Continuous κ₁) (hκ₂ : Continuous κ₂) (h : κ₁ 1 = κ₂ 1) :
+    κ₁ = κ₂ := by
+  refine DFunLike.coe_injective <| PadicInt.denseRange_natCast.equalizer hκ₁ hκ₂ (funext fun n ↦ ?_)
+  simp only [Function.comp_apply, ← nsmul_one, h, AddChar.map_nsmul_eq_pow]
+
+variable {R : Type*} [NormedRing R] [Algebra ℤ_[p] R] [IsBoundedSMul ℤ_[p] R]
+  [IsUltrametricDist R]
+
+lemma AddChar.tendsto_apply_one_sub_pow {κ : AddChar ℤ_[p] R} (hκ : Continuous κ) :
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/AddChar.lean:43]: Same question for the name: `apply` or `eval`?

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 3]
```diff
@@ -0,0 +1,107 @@
...
+/-!
+# Additive characters of `ℤ_[p]`
+
+We show that for any normed `ℤ_[p]`-algebra `R`, there is a canonical bijection between continuous
+additive characters `ℤ_[p] → R` and topologically nilpotent elements of `R`, given by sending `κ`
+to the element `κ 1 - 1`. This is used to define the Mahler transform for `p`-adic measures.
+
+Note that if the norm on `R` is not strictly multiplicative, then the condition that `κ 1 - 1` be
+topologically nilpotent is strictly weaker than assuming `‖κ 1 - 1‖ < 1`, although they are of
+course equivalent if `NormMulClass R` holds.
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/AddChar.lean:17]: Isn't this a good argument to duplicate the lemmas in question with this type-class assumption but a nicer property on `r` (in the setting you use there)?

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 4]
```diff
@@ -0,0 +1,107 @@
...
+
+lemma AddChar.tendsto_apply_one_sub_pow {κ : AddChar ℤ_[p] R} (hκ : Continuous κ) :
+    Tendsto (fun n ↦ (κ 1 - 1) ^ n) atTop (𝓝 0) := by
+  refine (PadicInt.fwdDiff_tendsto_zero ⟨κ, hκ⟩).congr fun n ↦ ?_
+  simpa only [AddChar.map_zero_eq_one, mul_one] using fwdDiff_addChar_eq κ 0 1 n
+
+namespace PadicInt
+variable [CompleteSpace R]
+
+/-- The unique continuous additive character of `ℤ_[p]` mapping `1` to `1 + r`. -/
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/AddChar.lean:51]: Given your lemma above, it shuold be very easy (and useful, IMHO) it add a lemma saying that if `addChar_of_value_at_one r = addChar_of_value_at_one s` then `r=s`, hence fully justifying this "uniqueness" statement. Also, why is `r` below explicit while being implicit almost everywhere else?

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 5]
```diff
@@ -0,0 +1,107 @@
...
+    -- so we prove it for `a, b ∈ ℕ` directly, and then deduce it for all `a, b` by continuity.
+    have hF (n : ℕ) : F n = (r + 1) ^ n := by
+      rw [mahlerSeries_apply_nat hr le_rfl, (Commute.one_right _).add_pow]
+      refine Finset.sum_congr rfl fun i hi ↦ ?_
+      rw [one_pow, mul_one, nsmul_eq_mul, Nat.cast_comm]
+    refine congr_fun ((denseRange_natCast.prodMap denseRange_natCast).equalizer
+      ((map_continuous F).comp continuous_add)
+      (continuous_mul.comp (map_continuous <| F.prodMap F)) (funext fun ⟨m, n⟩ ↦ ?_)) (a, b)
+    simp [← Nat.cast_add, hF, ContinuousMap.prodMap_apply, pow_add]
+
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/AddChar.lean:71]:
```suggestion
@[fun_prop]
```

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 6]
```diff
@@ -0,0 +1,107 @@
...
+lemma continuous_addChar_of_value_at_one {r : R} (hr : Tendsto (r ^ ·) atTop (𝓝 0)) :
+    Continuous (addChar_of_value_at_one r hr : ℤ_[p] → R) :=
+  map_continuous (mahlerSeries (r ^ ·))
+
+lemma coe_addChar_of_value_at_one {r : R} (hr : Tendsto (r ^ ·) atTop (𝓝 0)) :
+    (addChar_of_value_at_one r hr : ℤ_[p] → R) = mahlerSeries (r ^ ·) :=
+  rfl
+
+lemma addChar_of_value_at_one_def {r : R} (hr : Tendsto (r ^ ·) atTop (𝓝 0)) :
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/AddChar.lean:80]: Why not making this a `simp` lemma?

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 7]
```diff
@@ -0,0 +1,107 @@
...
+    addChar_of_value_at_one r hr (1 : ℤ_[p]) = 1 + r := by
+  show mahlerSeries (r ^ ·) ↑(1 : ℕ) = _
+  rw [mahlerSeries_apply_nat hr le_rfl, Finset.sum_range_succ, Finset.sum_range_one,
+    Nat.choose_zero_right, Nat.choose_self, one_smul, one_smul, pow_zero, pow_one]
+
+variable (p R) in
+/-- Equivalence between continuous additive characters `ℤ_[p] → R`, and `r ∈ R` with `r ^ n → 0`. -/
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/AddChar.lean:87]: This is a homemorphism, right? It currently seems painful to state this, but wouldn't this be useful when we move towards the weight space? In this case, it might simply be a ToDo.

**Review by faenuccio — COMMENTED** [review]
Thanks for all your work!

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 8]
```diff
@@ -0,0 +1,107 @@
...
+    refine congr_fun ((denseRange_natCast.prodMap denseRange_natCast).equalizer
+      ((map_continuous F).comp continuous_add)
+      (continuous_mul.comp (map_continuous <| F.prodMap F)) (funext fun ⟨m, n⟩ ↦ ?_)) (a, b)
+    simp [← Nat.cast_add, hF, ContinuousMap.prodMap_apply, pow_add]
+
+lemma continuous_addChar_of_value_at_one {r : R} (hr : Tendsto (r ^ ·) atTop (𝓝 0)) :
+    Continuous (addChar_of_value_at_one r hr : ℤ_[p] → R) :=
+  map_continuous (mahlerSeries (r ^ ·))
+
+lemma coe_addChar_of_value_at_one {r : R} (hr : Tendsto (r ^ ·) atTop (𝓝 0)) :
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/Padics/AddChar.lean:76]: I think it's not 100% clear which side of this lemma is "simpler", so I'd rather not give it the simp tag.

File: Mathlib/NumberTheory/Padics/AddChar.lean (hunk 7 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/Padics/AddChar.lean:87]: This is indeed a homeomorphism, for some natural choice of the topologies involved; but I'm not sure how useful a statement that is. I'd rather just get the definition of the map there for now, and worry about topologies later.

File: Mathlib/NumberTheory/Padics/AddChar.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/Padics/AddChar.lean:51]: As for `r` being explicit: I learned from Eric Wieser that the rule "all arguments inferrable from another argument should be implicit" only applies to lemmas, not to defs, because otherwise we get objects which print incomprehensibly in the tactic state. If we made `r` implicit here, then we'd get tactic state output like `addChar_of_value_at_one ⋯` where `⋯` is a placeholder for a proof that some (invisible!) `r` has some property.

Comment (loefflerd) [reply Mathlib/NumberTheory/Padics/AddChar.lean:51]: I'm not sure what you mean about "justifying this uniqueness" here: the uniqueness that I am claiming in the docstring is that `κ` is uniquely determined by `r`, not that `r` is uniquely determined by `κ` (which is trivial). I think all the uniqueness statements one can sensibly ask for in this setting are bundled together in the fact that `continuousAddCharEquiv` is a bijection, so I'm wary of adding more as separate lemmas.

File: Mathlib/NumberTheory/Padics/AddChar.lean [hunk 9]
```diff
@@ -0,0 +1,107 @@
...
+
+Note that if the norm on `R` is not strictly multiplicative, then the condition that `κ 1 - 1` be
+topologically nilpotent is strictly weaker than assuming `‖κ 1 - 1‖ < 1`, although they are of
+course equivalent if `NormMulClass R` holds.
+-/
+
+open scoped fwdDiff
+open Filter Topology
+
+lemma fwdDiff_addChar_eq {M R : Type*} [AddCommMonoid M] [Ring R]
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/Padics/AddChar.lean]: (This leads to a nontrivial import increase in that file, but I think it's tolerable, because very little else imports that file anyway.)

File: Mathlib/NumberTheory/Padics/AddChar.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/Padics/AddChar.lean:30]: There are tons of `xxx_apply` lemmas in mathlib, I think this usage is pretty standard.

Comment (faenuccio) [reply Mathlib/NumberTheory/Padics/AddChar.lean:30]: I certainly agree, my feeling is that when we evaluate at "explicit" values we use `eval`  and `apply` is an abstract application, like in `RatFunc.eval_zero` vs `tprod_apply`. Not terribly important, though.

File: Mathlib/NumberTheory/Padics/AddChar.lean (hunk 4 above)
Comment (faenuccio) [reply Mathlib/NumberTheory/Padics/AddChar.lean:38]: Fine, I agree.

File: Mathlib/NumberTheory/Padics/AddChar.lean (hunk 7 above)
Comment (faenuccio) [reply Mathlib/NumberTheory/Padics/AddChar.lean:81]: Oh sure; I am not suggesting that you add it now, simply that you add a ToDo at the beginning of the file saying that this is something that could be done. I think it can be useful, and at any rate a quite natural result.

**Review by faenuccio — COMMENTED** [review]
Thanks, LGTM!

maintainer delegate
